US08207164B2
e) [5-Difluoromethyl-5-(2-fluoro-5-nitro-phenyl)-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A solution of 5-Difluoromethyl-5-(2-fluoro-5-nitro-phenyl)-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (144.5 g, 500 mmol), Boc anhydride (142 g, 650 mmol) and DIPEA (131 ml, 749 mmol) in 2500 ml THF was stirred for 3 days at rt, after which there was still starting material remaining. Boc anhydride (56 g, 325 mmol) was added, the mixture heated to 60° C. and stirred for 10 h until the reaction was complete. The mixture was evaporated, dissolved in TBME, washed with ice-cold 1N aqueous HCl, water, 10% aqueous NaHCO3 and brine. The organic phase was dried with sodium sulfate, filtered and evaporated. The product was purified by crystallization from DCM/heptanes. Yield 182.8 g white crystals.

reactant | 5-Difluoromethyl-5-(2-fluoro-5-nitro-phenyl)-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 500 mmol, 144.5 g | FC(C1(N=C(COC1)N)C1=C(C=CC(=C1)[N+](=O)[O-])F)F | C11H10F3N3O3
reactant | Boc anhydride | 650 mmol, 142 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 749 mmol, 131 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc anhydride | 325 mmol, 56 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 2500 ml | C1CCOC1 | C4H8O
product | [5-Difluoromethyl-5-(2-fluoro-5-nitro-phenyl)-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C1=C(C=CC(=C1)[N+](=O)[O-])F)C(F)F)=O | C16H18F3N3O5
